US06743785B2
2-hydroxymethyl-1,2,3,4-tetrahydroquinoline
Sodium borohydride (21.7 g, 0.57 mol) was added in portions to a solution of quinoline-2-carboxaldehyde (30 g, 0.191 mol) in ethanol (300 mL) at 0° C. The reaction mixture was warmed to room temperature, stirred at room temperature for 2 hrs, and quenched by water. Volatiles were removed under reduced pressure and the residue dissolved in ethyl acetate, washed with water and saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography. Fractions containing product were combined and concentrated under reduced pressure to provide the desired compound and 2-(hydroxymethyl)quinoline. A solution of the recovered 2-(hydroxymethyl)quinoline in ethanol (250 mL) and tetrahydrofuran (250 mL) was hydrogenated at 60 psi in the presence of 5% platinum on carbon at 40° C. for 48 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure to provide the title compound.

reactant | 2-(hydroxymethyl)quinoline | OCC1=NC2=CC=CC=C2C=C1 | C10H9NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | [Pt] | Pt
product | 2-hydroxymethyl-1,2,3,4-tetrahydroquinoline | OCC1NC2=CC=CC=C2CC1 | C10H13NO
